US04633013
Preparation of Methyl-α-Chloroacetoacetate
A solution of 25% sodium methoxide in methanol (5 ml, 21.6 mmol) was added to a solution of 5-chloro-2,2,6-trimethyl-4H-1,3-dioxin-4-one (3.24 g, 18.4 mmol) in 10 ml of methanol at 20° C. The resulting yellow solution was stirred for 10 minutes, acidified with 10% HCl, and extracted with ether. Evaporation of the ether provided 2.35 g (94% yield, NMR assay ~90%) of a pale yellow oil, which was distilled to provide 1.8 g (66%) of pure title compound as a colorless liquid.

reactant | sodium methoxide | C[O-].[Na+]
reactant | 5-chloro-2,2,6-trimethyl-4H-1,3-dioxin-4-one | 18.4 mmol, 3.24 g | ClC=1C(OC(OC1C)(C)C)=O | C7H9ClO3
reactant | HCl | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 21.6 mmol, 5 ml | CO | CH4O
product | Methyl-α-Chloroacetoacetate | 1.8 g, 66% | COC(C(C(=O)C)Cl)=O | C5H7ClO3
